US04552959
45 parts of a trichlorotriazine melt at 160° C. are sprayed through a pressure nozzle, below the surface, into a dispersion column which is supplied with 21 parts of a 30% aqueous ammonia solution. The reaction mixture is pumped continuously into a vessel where, at about 25° C. with maintenance of the pH value at 8.5 to 9.0 with sodium hydroxide solution, the substitution is completed. The amino-dichlorotriazine obtained in practically quantitative amounts can be used directly to produce a reactive dye.

reactant | trichlorotriazine | ClC1=C(C(=NN=N1)Cl)Cl | C3Cl3N3
reactant | ammonia | N | H3N
reactant | sodium hydroxide | [OH-].[Na+]
product | amino-dichlorotriazine | NC=1C(=NN=NC1Cl)Cl | C3H2Cl2N4
